US06441017B1
Step D: {5-[1-(4-Cyano-3-fluorophenyl)-1-hydroxyethyl]imidazol-1-yl}acetic Acid Methyl Ester
To a stirred solution of 1-(4-cyano-3-fluorophenyl)-1-[1-(triphenylmethyl)imidazol-4-yl]ethanol, as described above in Step C, (200 mg, 0.42 mmol), methyl glycolate (35 mg, 0.39 mmol), and N,N-diisopropylethylamine (65 mg, 0.51 mmol) in dry CH2Cl2 (10 mL), under argon, at −78° C., was added trifluoromethanesulfonic anhydride (110 mg, 0.39 mmol) dropwise. The mixture was allowed to warm slowly to ambient temperature, then the solvent was removed in vacuo. The residue was dissolved in MeOH (10 mL) and the solution was heated to reflux for 1 hour, then concentrated to dryness. The residue was purified by silica gel chromatography, eluting with 4% MeOH—0.4% NH4OH in CHCl3, to yield the titled product as a white solid.

reactant | 1-(4-cyano-3-fluorophenyl)-1-[1-(triphenylmethyl)imidazol-4-yl]ethanol | C(#N)C1=C(C=C(C=C1)C(C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C31H24FN3O
reactant | methyl glycolate | 0.42 mmol, 200 mg | C(CO)(=O)OC | C3H6O3
reactant | N,N-diisopropylethylamine | 0.51 mmol, 65 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.39 mmol, 110 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | {5-[1-(4-Cyano-3-fluorophenyl)-1-hydroxyethyl]imidazol-1-yl}acetic Acid Methyl Ester | COC(CN1C=NC=C1C(C)(O)C1=CC(=C(C=C1)C#N)F)=O | C15H14FN3O3
